* MAGFORMER EDGE AI INFERENCE CHIP
* Process: 180nm CMOS Analog Prototype
* Oscillators: 8

.INCLUDE 180nm_models.txt

* --- OSCILLATOR LC TANKS ---
C0 osc_0 0 1.00p
L0 osc_0 0 1.64n
R_damp0 osc_0 0 0.73
D0a osc_0 0 1N4148
D0b 0 osc_0 1N4148

C1 osc_1 0 1.00p
L1 osc_1 0 1.90n
R_damp1 osc_1 0 0.69
D1a osc_1 0 1N4148
D1b 0 osc_1 1N4148

C2 osc_2 0 1.00p
L2 osc_2 0 1.76n
R_damp2 osc_2 0 0.67
D2a osc_2 0 1N4148
D2b 0 osc_2 1N4148

C3 osc_3 0 1.00p
L3 osc_3 0 1.77n
R_damp3 osc_3 0 0.72
D3a osc_3 0 1N4148
D3b 0 osc_3 1N4148

C4 osc_4 0 1.00p
L4 osc_4 0 4.91n
R_damp4 osc_4 0 0.80
D4a osc_4 0 1N4148
D4b 0 osc_4 1N4148

C5 osc_5 0 1.00p
L5 osc_5 0 2.38n
R_damp5 osc_5 0 0.69
D5a osc_5 0 1N4148
D5b 0 osc_5 1N4148

C6 osc_6 0 1.00p
L6 osc_6 0 0.52n
R_damp6 osc_6 0 0.69
D6a osc_6 0 1N4148
D6b 0 osc_6 1N4148

C7 osc_7 0 1.00p
L7 osc_7 0 3.35n
R_damp7 osc_7 0 0.72
D7a osc_7 0 1N4148
D7b 0 osc_7 1N4148

* --- ATTENTION CROSSBAR (COUPLING) ---
R_c0_1 osc_0 osc_1 152.9k
R_c0_2 osc_0 osc_2 173.5k
R_c0_3 osc_0 osc_3 123.6k
R_c0_4 osc_0 osc_4 191.8k
R_c0_5 osc_0 osc_5 100.1k
R_c0_6 osc_0 osc_6 109.5k
R_c0_7 osc_0 osc_7 83.4k
R_c1_2 osc_1 osc_2 116.6k
R_c1_3 osc_1 osc_3 92.5k
R_c1_4 osc_1 osc_4 157.0k
R_c1_5 osc_1 osc_5 142.1k
R_c1_6 osc_1 osc_6 158.2k
R_c1_7 osc_1 osc_7 107.4k
R_c2_3 osc_2 osc_3 82.5k
R_c2_4 osc_2 osc_4 128.9k
R_c2_5 osc_2 osc_5 168.7k
R_c2_6 osc_2 osc_6 129.5k
R_c2_7 osc_2 osc_7 193.0k
R_c3_4 osc_3 osc_4 235.6k
R_c3_5 osc_3 osc_5 73.6k
R_c3_6 osc_3 osc_6 231.8k
R_c3_7 osc_3 osc_7 172.8k
R_c4_5 osc_4 osc_5 96.6k
R_c4_6 osc_4 osc_6 196.0k
R_c4_7 osc_4 osc_7 190.1k
R_c5_6 osc_5 osc_6 227.2k
R_c5_7 osc_5 osc_7 91.1k
R_c6_7 osc_6 osc_7 94.1k

* --- SIMULATION COMMANDS ---
.TRAN 0.1n 100n
.END